US07368578B2
To a mixture of (2E)-{3-{3-[(4-([2-(2-furyl)-5-methyl-4-oxazolyl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoic acid (0.60 g), triethylamine (0.14 g) and tetrahydrofuran (30 mL) was added ethyl chlorocarbonate (0.15 g) at −30° C. The reaction mixture was stirred at the same temperature for 40 min and added to a mixture of 1-amino-2-chloroethane hydrochloride (0.66 g), triethylamine (0.58 g) and tetrahydrofuran (20 mL) at −30° C. After stirring the reaction mixture at room temperature for 1 hr, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. A mixture of the obtained residue, potassium carbonate (0.19 g) and N,N-dimethylformamide (20 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 4-({4-[({4-[(E)-2-(4,5-dihydro-1,3-oxazol-2-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-2-(2-furyl)-5-methyl-1,3-oxazole as pale-yellow crystals (0.22 g, yield 35%) from a fraction eluted with ethyl acetate-methanol (50:1, v/v). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 162-163° C.

reactant | 3-{3-[(4-([2-(2-furyl)-5-methyl-4-oxazolyl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoic acid | 0.60 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=CC(=O)O)C2=CC=CC=C2)C=C1)OC)C | C29H25N3O7
reactant | ethyl chlorocarbonate | 0.15 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1-amino-2-chloroethane hydrochloride | 0.66 g | Cl.NCCCl
solvent | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 0.58 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 0.14 g | C(C)N(CC)CC | C6H15N
product | 4-({4-[({4-[(E)-2-(4,5-dihydro-1,3-oxazol-2-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-2-(2-furyl)-5-methyl-1,3-oxazole | 0.22 g, yield 35% | O1C(=NCC1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C31H28N4O6
